US09085555B2
3-{2-[(1R,3S,5R)-3-(3-Chloro-2-fluoro-benzylcarbamoyl)-2-aza-bicyclo[3.1.0]hex-2-yl]-2-oxo-ethyl}-5-(2-dimethylamino-ethoxy)-indole-1-carboxylic acid amide
Methanesulfonic acid 2-(1-carbamoyl-3-{2-[(1R,3S,5R)-3-(3-chloro-2-fluoro-benzylcarbamoyl)-2-aza-bicyclo[3.1.0]hex-2-yl]-2-oxo-ethyl}-1H-indol-5-yloxy)-ethyl ester in a solution of dimethylamine 5.6 M in EtOH (1 mL) was sealed in a microwave vial and heated at 70° C. for 2 h (Emrys Optimizer; personal chemistry). The reaction mixture was quenched by addition of saturated aqueous NaHCO3, extracted with EtOAc, dried (Na2SO4) and evaporated in vacuo. Then crude residue was purified by catch-release (SCX Tosic Acid-1 g from Silicycle; eluent MeOH (10 mL) to 2M ammonia in MeOH (10 mL)) to give the desired material which was precipitated in Et2O. MS (UPLC/MS): 556.5/558.5 [M+H]+, 600.4/602.5 [M+HCOO]−; tR (HPLC conditions f): 1.46 min.

reactant | Methanesulfonic acid 2-(1-carbamoyl-3-{2-[(1R,3S,5R)-3-(3-chloro-2-fluoro-benzylcarbamoyl)-2-aza-bicyclo[3.1.0]hex-2-yl]-2-oxo-ethyl}-1H-indol-5-yloxy)-ethyl ester | C(N)(=O)N1C=C(C2=CC(=CC=C12)OCCOS(=O)(=O)C)CC(=O)N1[C@@H]2C[C@@H]2C[C@H]1C(NCC1=C(C(=CC=C1)Cl)F)=O | C27H28ClFN4O7S
reactant | dimethylamine | 5.6 M | CNC | C2H7N
solvent | EtOH | 1 mL | CCO | C2H6O
product | 3-{2-[(1R,3S,5R)-3-(3-Chloro-2-fluoro-benzylcarbamoyl)-2-aza-bicyclo[3.1.0]hex-2-yl]-2-oxo-ethyl}-5-(2-dimethylamino-ethoxy)-indole-1-carboxylic acid amide | ClC=1C(=C(CNC(=O)[C@H]2N([C@@H]3C[C@@H]3C2)C(CC2=CN(C3=CC=C(C=C23)OCCN(C)C)C(=O)N)=O)C=CC1)F | C28H31ClFN5O4
